US08076332B2
N-(2-t-Butoxycarbonylaminophenyl)-4-[3-(4-methylpiperazin-1-yl)propylaminomethyl]benzamide (Reference Compound No. 4-1)
Under ice cooling, methanesulfonyl chloride (0.25 mL, 3.2 mmol) was added to a solution of N-(2-t-butoxycarbonylaminophenyl)-4-hydroxymethylbenzamide (Reference Compound No. 3-1, 1.0 g, 2.9 mmol) and triethylamine (0.61 mL, 4.4 mmol) in anhydrous dichloromethane (15 mL), and then the mixture was stirred for 40 minutes. 1-(3-Aminopropyl)-4-methylpiperazine (2.3 mL, 4.4 mmol) was added to the reaction mixture, and then stirred at room temperature for 2.5 hours additionally. Water (200 mL) was added thereto, the whole was extracted with ethyl acetate (200 mL) twice, and then the organic layer was washed with brine (200 mL). The organic layer was dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH-modified silica gel, chloroform-methanol) to give 470 mg of the title reference compound as a colorless amorphous product. (Yield 33%)

reactant | methanesulfonyl chloride | 3.2 mmol, 0.25 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(2-t-butoxycarbonylaminophenyl)-4-hydroxymethylbenzamide | 2.9 mmol, 1.0 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CO)=O | C19H22N2O4
reactant | triethylamine | 4.4 mmol, 0.61 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-Aminopropyl)-4-methylpiperazine | 4.4 mmol, 2.3 mL | NCCCN1CCN(CC1)C | C8H19N3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | Water | 200 mL | O | H2O
product | N-(2-t-Butoxycarbonylaminophenyl)-4-[3-(4-methylpiperazin-1-yl)propylaminomethyl]benzamide | Yield 33% | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CNCCCN1CCN(CC1)C)=O | C27H39N5O3
